US05420151
e) (R)-8-Fluoro-5-hydroxy-3-(N-3-pentyl-N-n-propylamino)chroman hydrochloride
(R)-8-Fluoro-5-hydroxy-3-(N-3-pentyl-N-n-propylamino)chroman (180 mg, 0.6 mmol) was dissolved in ether. HCl in ether was added to precipitate the HCl-salt, and gave after drying 200 mg of (R)-8-fluoro-5-hydroxy-3-(N-3-pentyl-N-n-propylamino)-chroman hydrochloride as a white powder. Mp: 80°-100° C. (sinters).

reactant | (R)-8-Fluoro-5-hydroxy-3-(N-3-pentyl-N-n-propylamino)chroman | 0.6 mmol, 180 mg | FC=1C=CC(=C2C[C@H](COC12)N(CCC)C(CC)CC)O | C17H26FNO2
reactant | HCl | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | (R)-8-Fluoro-5-hydroxy-3-(N-3-pentyl-N-n-propylamino)chroman hydrochloride | Cl.FC=1C=CC(=C2C[C@H](COC12)N(CCC)C(CC)CC)O | InChI=1S/C17H26FNO2.ClH/c1-4-9-19(12(5-2)6-3)13-10-14-16(20)8-7-15(18)17(14)21-11-13;/h7-8,12-13,20H,4-6,9-11H2,1-3H3;1H/t13-;/m1./s1
